US05444082
A suspension of 2.65 g of (EZ) 9-hydroxy-3-(2-(3-furyl)vinyl)-spiro[5.5]undecane (I-ag, Ex. 31) in 50 ml of ethanol and 0.26 g of palladium on carbon (5%) was hydrogenated at room temperature and atmospheric pressure for 2 hrs, then was filtered and the filtrate evaporated to dryness to give 2.59 g of pure 9-hydroxy-3-(2-(3-furyl)ethyl)-spiro[5.5]undecane (I-ap, Ex. 38) as white solid, mp 66°-69° C. TLC: Rf=0.42 (SiO2 plates, n-hexane/diethylether 60/40). 1H-NMR (300 MHz, CDCl3, ppm from TMS):7.35 (1H, m), 7.20 (1H, m), 6.25 (1H, m), 3.63 (1H, hept), 2.49 (2H, t), 1.95-0.95 (19H, m).

reactant | 9-hydroxy-3-(2-(3-furyl)vinyl)-spiro[5.5]undecane | OC1CCC2(CCC(CC2)C=CC2=COC=C2)CC1 | C17H24O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.26 g | [Pd] | Pd
product | 9-hydroxy-3-(2-(3-furyl)ethyl)-spiro[5.5]undecane | 2.59 g | OC1CCC2(CCC(CC2)CCC2=COC=C2)CC1 | C17H26O2
